US07897619B2
To a solution of 3-(isoquinolin-6-yl)isoxazol-5-amine (0.30 g, 1.4 mmol) in 14 mL of dry DMF at 0° C. was added LiHMDS (1.7 mL, 1.0 M in THF) dropwise via syringe. The mixture was stirred for 1 hour. Diallyl pyrocarbonate (0.53 g, 2.8 mmol) was added. After 1 hour, the reaction was quenched with 15 mL of aq. NH4Cl. The mixture was then diluted with 15 mL of water and transferred to a separatory funnel. The mixture was partitioned and the aqueous portion was extracted three times with 10 mL of DCM. The combined organic extracts were dried over MgSO4 and filtered. The solvent was removed by rotary evaporation under high vacuum (to remove the residual DMF). The residue was purified by flash chromatography on silica gel (0% to 10% MeOH/DCM), affording allyl 3-(isoquinolin-6-yl)isoxazol-5-ylcarbamate (0.25 g, 60% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.68 (s, 1H), 9.38 (s, 1H), 8.58 (d, J=5.7 Hz, 1H), 8.55 (s, 1H), 8.24 (d, J=8.6 Hz, 1H), 8.14 (dd, J=1.4 Hz, 8.6 Hz, 1H), 7.94 (d, J=5.9 Hz, 1H), 6.76 (s, 1H), 6.05-5.95 (m, 1H0, 5.40 (d, J=15.6, 1H), 5.29 (dd, J=1.4 Hz, 10.6 Hz, 1H), 4.72 (d, J=5.7 Hz, 2H).

reactant | 3-(isoquinolin-6-yl)isoxazol-5-amine | 1.4 mmol, 0.30 g | C1=NC=CC2=CC(=CC=C12)C1=NOC(=C1)N | C12H9N3O
reactant | LiHMDS | 1.0 M, 1.7 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Diallyl pyrocarbonate | 2.8 mmol, 0.53 g | C(OCC=C)(=O)OC(=O)OCC=C | C8H10O5
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
product | allyl 3-(isoquinolin-6-yl)isoxazol-5-ylcarbamate | 0.25 g, 60% yield | C1=NC=CC2=CC(=CC=C12)C1=NOC(=C1)NC(OCC=C)=O | C16H13N3O3
